US06982348B2
To a solution of ethyl (2RS,3RS)-2-[3-(tert-butyloxy)benzyl]-3-(4-fluorophenyl)-3-hydroxypropanoate (8.8 g, 23.5 mmol) in methanol (100 ml) was added 2N aqueous sodium hydroxide solution (23.5 ml, 47 mmol), and the mixture was stirred at room temperature for 3 hrs. The reaction solution was acidified with 5% aqueous potassium hydrogen sulfate solution (100 ml). The mixture was extracted with ethyl acetate (200 ml). The extract was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was crystallized from hexane to give (2RS,3RS)-2-[3-(tert-butyloxy)benzyl]-3-(4-fluorophenyl)-3-hydroxypropanoic acid.

reactant | ethyl (2RS,3RS)-2-[3-(tert-butyloxy)benzyl]-3-(4-fluorophenyl)-3-hydroxypropanoate | 23.5 mmol, 8.8 g | C(C)(C)(C)OC=1C=C(CC(C(=O)OCC)C(O)C2=CC=C(C=C2)F)C=CC1 | C22H27FO4
reactant | sodium hydroxide | 47 mmol, 2N, 23.5 ml | [OH-].[Na+]
reactant | potassium hydrogen sulfate | 100 ml | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | (2RS,3RS)-2-[3-(tert-butyloxy)benzyl]-3-(4-fluorophenyl)-3-hydroxypropanoic acid | C(C)(C)(C)OC=1C=C(CC(C(=O)O)C(O)C2=CC=C(C=C2)F)C=CC1 | C20H23FO4
